US08791236B2
Preparation of (S)-2-(15-carboxy-pentadecanoylamino)-pentanedioic acid 5-(2,5-dioxo-pyrrolidin-1-yl) ester
(S)-2-(15-benzyloxycarbonyl-pentadecanoylamino)-pentanedioic acid 5-benzyl ester 1-(2,5-dioxo-pyrrolidin-1-yl) ester (5.0 g, 7.3 mmol) was dissolved in acetone (95 ml) containing trifluoroacetic acid (95 μl). Palladium on carbon, 10% (0.50 g) was added. Under stirring at 30-35° C. hydrogen was added. When the consumption of hydrogen stopped the reaction mixture was filtered. The filtrate was cooled to 20° C. and n-heptane (140 ml) was added over a period of 15-30 minutes. The resulting suspension was cooled to 0-5° C. for 2-3 hours. The product was isolated by filtration, and dried to constant weight under reduced pressure at 20-25° C. Yield 3 g (84%) of white material.

reactant | (S)-2-(15-benzyloxycarbonyl-pentadecanoylamino)-pentanedioic acid 5-benzyl ester 1-(2,5-dioxo-pyrrolidin-1-yl) ester | 7.3 mmol, 5.0 g | O=C1N(C(CC1)=O)OC([C@H](CCC(=O)OCC1=CC=CC=C1)NC(CCCCCCCCCCCCCCC(=O)OCC1=CC=CC=C1)=O)=O | C39H52N2O9
reactant | trifluoroacetic acid | 95 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen | [H][H] | H2
reactant | acetone | 95 ml | CC(=O)C | C3H6O
catalyst | Palladium on carbon | [Pd] | Pd
product | (S)-2-(15-carboxy-pentadecanoylamino)-pentanedioic acid 5-(2,5-dioxo-pyrrolidin-1-yl) ester | O=C1N(C(CC1)=O)OC(CC[C@@H](C(=O)O)NC(CCCCCCCCCCCCCCC(=O)O)=O)=O | C25H40N2O9
